US06004478
Preparation of 4-(trans-4-n-pentyl-4-silacyclohexyl)-1-(2,2,2-trifluoroethoxy)benzene
The general procedure of Example 17 was repeated using 4-n-pentyl-4-phenyl-4-silacyclohexanone, 4-bromo-1-(t-butyldimethylsiloxy)benzene and 1-bromo-2,2,2-trifluoroethane, thereby obtaining the intended compound.

reactant | 4-n-pentyl-4-phenyl-4-silacyclohexanone | C(CCCC)[Si]1(CCC(CC1)=O)C1=CC=CC=C1 | C16H24OSi
reactant | 4-bromo-1-(t-butyldimethylsiloxy)benzene | BrC1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C | C12H19BrOSi
reactant | 1-bromo-2,2,2-trifluoroethane | BrCC(F)(F)F | C2H2BrF3
product | 4-(trans-4-n-pentyl-4-silacyclohexyl)-1-(2,2,2-trifluoroethoxy)benzene | C(CCCC)[Si@@H]1CC[C@H](CC1)C1=CC=C(C=C1)OCC(F)(F)F | C18H27F3OSi
